US09290454B2
Sodium hypochlorite (1.408 mL, 0.912 mmol) was added to a stirred, room temperature mixture of (E)-tert-butyl 5-(2-(4-fluorophenyl)-6-((hydroxyimino)methyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (100 mg, 0.228 mmol) and 6-fluoro-2-(prop-1-en-2-yl)benzo[d]oxazole (40.4 mg, 0.228 mmol) in dichloromethane (2 mL) and the mixture was stirred at room temperature for overnight. The reaction was checked with LCMS and starting material was all consumed. The mixture was diluted with dichloromethane (10 mL), washed with aqueous sodium hydrogen carbonate (saturated, 1×6 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with EtOAc/isohexane=50% to give tert-butyl 5-(4-chloro-6-(5-(6-fluorobenzo[d]oxazol-2-yl)-5-methyl-4,5-dihydroisoxazol-3-yl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (48 mg, 0.074 mmol) as a yellow solid, 648.0 (M+H+); and tert-butyl 5-(6-(5-(6-fluorobenzo[d]oxazol-2-yl)-5-methyl-4,5-dihydroisoxazol-3-yl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (26 mg, 0.042 mmol) as a yellow solid which were deprotected with TFA as in Example 5.1 to give Examples 6.1 and 6.2 respectively.

reactant | Sodium hypochlorite | 0.912 mmol, 1.408 mL | Cl[O-].[Na+]
reactant | (E)-tert-butyl 5-(2-(4-fluorophenyl)-6-((hydroxyimino)methyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 0.228 mmol, 100 mg | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC(C)(C)C)/C=N/O)=O | C25H27FN2O4
reactant | 6-fluoro-2-(prop-1-en-2-yl)benzo[d]oxazole | 0.228 mmol, 40.4 mg | FC1=CC2=C(N=C(O2)C(=C)C)C=C1 | C10H8FNO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-butyl 5-(4-chloro-6-(5-(6-fluorobenzo[d]oxazol-2-yl)-5-methyl-4,5-dihydroisoxazol-3-yl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 0.074 mmol, 48 mg | ClC1=C(N(C(C2=CC=C(C=C12)C1=NOC(C1)(C)C=1OC2=C(N1)C=CC(=C2)F)=O)C2=CC=C(C=C2)F)CCCCC(=O)OC(C)(C)C | C35H32ClF2N3O5
